US07816344B2
(2,2-Dimethyl-[1,3]dioxan-5-yl)-methanol
A solution of 2,2-dimethoxypropane (5.88 g, 56.5 mmol), 2-methyl-propane-1,3-diol (5.0 g, 47 mmol), and PTSA monohydrate (0.48 g, 2.3 mmol) in THF (100 mL) was stirred O/N at rt. The mixture was concentrated in vacuo to give the title compound as a colorless liquid: yield 6.87 g (99%).

reactant | 2,2-dimethoxypropane | 56.5 mmol, 5.88 g | COC(C)(C)OC | C5H12O2
reactant | 2-methyl-propane-1,3-diol | 47 mmol, 5.0 g | CC(CO)CO | C4H10O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (2,2-Dimethyl-[1,3]dioxan-5-yl)-methanol | CC1(OCC(CO1)CO)C | C7H14O3
